US07064143B1
N-(4-Chlorophenyl) 4-hydroxy-1-methyl-1H-indole-2-carboxamide
From 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid and 4-chloroaniline the title compound was prepared by a method analogous to that described in Example 11. MS ES (M++H)=301 and 303.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | N-(4-Chlorophenyl) 4-hydroxy-1-methyl-1H-indole-2-carboxamide | ClC1=CC=C(C=C1)NC(=O)C=1N(C2=CC=CC(=C2C1)O)C | C16H13ClN2O2
